US07576077B2
8-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine
Formic acid (0.1 mL), formaldehyde (37 wt. % solution in water, 0.1 mL) and sodium cyanoborohydride (1.0 M in THF, 0.1 mL) were added to a solution of 8-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine (30 mg, 0.071 mmol) in methanol (0.8 mL) at room temperature. After stirring for 30 minutes, the reaction mixture was diluted with water and then extracted with chloroform (4 times), dried over anhydrous sodium sulfate, filtered and concentrated. Purification by flash chromatography on silica gel; using 50% ethyl acetate in hexanes, ethyl acetate and 4% 2M ammonia in methanol in dichloromethane afforded the titled compound (23.8 mg, 77%). 1H NMR (CDCl3) δ (ppm): 8.04 (m, 1H), 7.93 (m, 1H), 7.68 (m, 2H), 7.42 (m, 2H), 7.03 (m, 2H), 4.37 (m,1H), 4.07 (m, 2H), 3.89 (m, 3H), 3.82 (m, 2H), 3.11 (m, 1H), 2.88 (m, 1H), 2.56 s, 3H).

reactant | Formic acid | 0.1 mL | C(=O)O | CH2O2
reactant | formaldehyde | 0.1 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 1.0 M, 0.1 mL | C(#N)[BH3-].[Na+]
reactant | 8-[3-(3-chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 0.071 mmol, 30 mg | ClC=1C=C(C=CC1)C1=NOC(=N1)C1C=2N(CCN1)C(=NN2)C2=CC=C(C=C2)OC | C20H17ClN6O2
solvent | methanol | 0.8 mL | CO | CH4O
solvent | water | O | H2O
product | 8-[3-(3-Chloro-phenyl)-[1,2,4]oxadiazol-5-yl]-3-(4-methoxy-phenyl)-7-methyl-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazine | 23.8 mg, 77% | ClC=1C=C(C=CC1)C1=NOC(=N1)C1C=2N(CCN1C)C(=NN2)C2=CC=C(C=C2)OC | C21H19ClN6O2
